US06417202B1
3-Acetyl-2-hydroxymethyl-4-methyl-5-(4-pyridyl)-1H-pyrrole
To a stirred solution of 3-acetyl-2-formyl-4-methyl-5-(4-pyridyl)-1H-pyrrole (84 mg, 0.37 mmol) in CH2Cl2 (2 mL) and methanol (2 mL) was added sodium borohydride (14 mg, 0.37 mmol) at 0° C. and stirred for 30 minutes at room temperature. The mixture was poured into water (15 mL) and extracted with ethyl acetate-ethanol (10:1, 20 mL×3). The combined organic layers were washed with brine, dried over MgSO4, and evaporated in vactio. Recrystallization from ethyl acetate provided the title compound (20 mg, 24% yield) as a solid.

reactant | 3-acetyl-2-formyl-4-methyl-5-(4-pyridyl)-1H-pyrrole | 0.37 mmol, 84 mg | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)C=O | C13H12N2O2
reactant | sodium borohydride | 0.37 mmol, 14 mg | [BH4-].[Na+]
reactant | water | 15 mL | O | H2O
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
solvent | methanol | 2 mL | CO | CH4O
product | 3-Acetyl-2-hydroxymethyl-4-methyl-5-(4-pyridyl)-1H-pyrrole | 20 mg, 24% yield | C(C)(=O)C1=C(NC(=C1C)C1=CC=NC=C1)CO | C13H14N2O2
